US07713993B2
(1) Synthesis of (E)-N-[3-(4-fluorophenyl)-2-oxopropyl]-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylamide
Diethyl cyanophosphonate (0.12 mL) was added to a solution of (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid (200 mg) and triethylamine (0.54 mL) in DMF (2 mL), and the reaction solution was stirred at 0° C. for 30 minutes. A solution of 1-amino-3-(4-fluorophenyl)propan-2-one hydrochloride (CAS# 93102-98-8, 158 mg) in DMF (1 mL) was added dropwise to the reaction solution over 20 minutes, and the reaction solution was stirred at 0° C. for 1.5 hours. Ethyl acetate and saturated sodium bicarbonate water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex™ NH; elution solvent: ethyl acetate->ethyl acetate:methanol=5:1) to obtain 43 mg of the title compound. The property values of the compound are as follows.

reactant | Diethyl cyanophosphonate | 0.12 mL | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid | 200 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)O | C14H14N2O3
reactant | 1-amino-3-(4-fluorophenyl)propan-2-one hydrochloride | 158 mg | Cl.NCC(CC1=CC=C(C=C1)F)=O
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.54 mL | C(C)N(CC)CC | C6H15N
product | (E)-N-[3-(4-fluorophenyl)-2-oxopropyl]-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylamide | 43 mg | FC1=CC=C(C=C1)CC(CNC(\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O)=O | C23H22FN3O3
